US07714010B2
c) 2-[(E)-2-(2-Amino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
(E)-N-(6-Amino-3,3-dimethyl-2-oxo-1-pentyl-2,3-dihydro-1H-indol-5-yl)-3-(2-amino-phenyl)-acrylamide (0.82 g) is dissolved in water, 2-propanol and concentrated hydrochloric acid and heated for 3 h under reflux. After re-cooling the mixture is concentrated in vacuo. The residue is taken-up in EtOAc and saturated K2CO3 solution. After an aqueous work-up the desired compound (0.73 g) is obtained as a yellow solid. A small amount was treated with hydrochloric acid (2 N) to give the hydrochloric salt which precipitated in a pure form.

reactant | (E)-N-(6-Amino-3,3-dimethyl-2-oxo-1-pentyl-2,3-dihydro-1H-indol-5-yl)-3-(2-amino-phenyl)-acrylamide | 0.82 g | NC1=C(C=C2C(C(N(C2=C1)CCCCC)=O)(C)C)NC(\C=C\C1=C(C=CC=C1)N)=O | C24H30N4O2
reactant | 2-propanol | CC(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-[(E)-2-(2-Amino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.73 g | NC1=C(C=CC=C1)/C=C/C1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1 | C24H28N4O
